US06953785B2
N-[3-(2-Pyrazinyl)-2-propynyl]phthalimide (780 mg, 2.96 mmol) was dissolved in DMF (30 mL) followed by addition of 10% palladium on carbon (500 mg, 50% water), and then the mixture was stirred in a hydrogen atmosphere at room temperature for 5.5 hours. The reaction mixture was filtered through Celite, and the resulting filtrate was concentrated to give N-[3-(2-pyrazinyl)propyl]phthalimide (521 mg; yield 66%).

reactant | N-[3-(2-Pyrazinyl)-2-propynyl]phthalimide | 2.96 mmol, 780 mg | N1=C(C=NC=C1)C#CCN1C(C=2C(C1=O)=CC=CC2)=O | C15H9N3O2
reactant | hydrogen | [H][H] | H2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | N-[3-(2-pyrazinyl)propyl]phthalimide | 521 mg, yield 66% | N1=C(C=NC=C1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H13N3O2
